US08008321B2
Methyl 5-[(imidazo[1,5-a]pyridin-3-yl)carbonyl]-2-nitrobenzoate
5.6 g (0.023 mol) of methyl 5-(chlorocarbonyl)-2-nitrobenzoate and 3.4 ml (0.024 mol) of triethylamine are added to 1.3 g (0.011 mol) of imidazo[1,5-a]pyridine [described in J. Chem. Soc., (1955), 2834-2836] dissolved in 100 ml of 1,2-dichloroethane. The mixture is stirred at ambient temperature for 4 hours. The reaction medium is concentrated under reduced pressure and then the residue is taken up in dichloromethane and a saturated aqueous sodium bicarbonate solution. The organic phase is separated by settling, washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The product is purified by column chromatography on silica gel, elution being carried out with dichloromethane. After evaporation, 3.1 g of a yellow solid are collected. Melting point: 151° C.; 1H NMR (d6-DMSO): 3.92 (3H, s), 7.39-7.42 (1H, m), 7.50-7.54 (1H, m), 8.00 (1H, s), 8.10 (1H, d), 8.25 (1H, d), 8.69 (1H, d), 8.76 (1H, s), 9.78 (1H, d)

reactant | methyl 5-(chlorocarbonyl)-2-nitrobenzoate | 0.023 mol, 5.6 g | ClC(=O)C=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C9H6ClNO5
reactant | triethylamine | 0.024 mol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | imidazo[1,5-a]pyridine | 0.011 mol, 1.3 g | C=1N=CN2C1C=CC=C2 | C7H6N2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Methyl 5-[(imidazo[1,5-a]pyridin-3-yl)carbonyl]-2-nitrobenzoate | C=1N=C(N2C1C=CC=C2)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-] | C16H11N3O5
